US07994196B2
Under ice-cooling, 1-chloromethyl-4,9-dihydro-3H-β-carboline hydrochloride (synthesized according to the method described in J. Med. Chem., 34, 8, 1991, 2624-2633, 400 mg) was added to a mixture of morpholine (684 mg) and methanol (4.5 ml), and the mixture was stirred at room temperature for 6 hr. Under ice-cooling, sodium borohydride (119 mg) was added, and the mixture was stirred at room temperature for 16.5 hr. The reaction mixture was alkalified with a 1N aqueous sodium hydroxide solution, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give a brown oil. The oil was purified by silica gel column chromatography (elution solvent: chloroform-methanol (20:1)) to give 1-(morpholine-4-ylmethyl)-2,3,4,9-tetrahydro-1H-β-carboline (353 mg, yield 83%).

reactant | 1-chloromethyl-4,9-dihydro-3H-β-carboline hydrochloride | Cl.ClCC1=NCCC=2C3=CC=CC=C3NC12
reactant | morpholine | 684 mg | N1CCOCC1 | C4H9NO
reactant | sodium borohydride | 119 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 4.5 ml | CO | CH4O
product | 1-(morpholine-4-ylmethyl)-2,3,4,9-tetrahydro-1H-β-carboline | 353 mg, yield 83% | N1(CCOCC1)CC1NCCC=2C3=CC=CC=C3NC12 | C16H21N3O
